US08426420B2
ii) (S)-4-(2-Amino-6-benzyloxy-hexanoyl)-piperazine-1-carboxylic acid cyclobutyl ester
To a solution of 726 mg (S)-4-[6-Benzyloxy-2-(9H-fluoren-9-ylmethoxycarbonylamino)-hexanoyl]-piperazine-1-carboxylic acid cyclobutyl ester in 4.0 ml DMF were added at room temperature 1.0 ml morpholine. After stirring for 2 h the reaction mixture was evaporated and the crude product thus obtained used in the next step without further purification.

reactant | (S)-4-[6-Benzyloxy-2-(9H-fluoren-9-ylmethoxycarbonylamino)-hexanoyl]-piperazine-1-carboxylic acid cyclobutyl ester | 726 mg | C1(CCC1)OC(=O)N1CCN(CC1)C([C@H](CCCCOCC1=CC=CC=C1)NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C37H43N3O6
reactant | morpholine | 1.0 ml | N1CCOCC1 | C4H9NO
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | (S)-4-(2-Amino-6-benzyloxy-hexanoyl)-piperazine-1-carboxylic acid cyclobutyl ester | C1(CCC1)OC(=O)N1CCN(CC1)C([C@H](CCCCOCC1=CC=CC=C1)N)=O | C22H33N3O4
